US08530460B2
4-Bromo-2-ethoxy-5-fluoropyridine
2.08 mL (26.0 mmol) Ethyliodide and 1.08 g (3.91 mmol) Ag2CO3 are added to a mixture of 500 mg (2.160 mmol) 4-bromo-5-fluoro-pyridin-2-ol in 10 mL DCM. The mixture is stirred at r.t. over night. Then the reaction mixture is quenched by the addition of water and DCM. After filtration the org. layer is separated, dried with Na2SO4 and the solvent is removed in vacuo.

reactant | Ethyliodide | 26.0 mmol, 2.08 mL | C(C)I | C2H5I
reactant | 4-bromo-5-fluoro-pyridin-2-ol | 2.160 mmol, 500 mg | BrC1=CC(=NC=C1F)O | C5H3BrFNO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-ethoxy-5-fluoropyridine | BrC1=CC(=NC=C1F)OCC | C7H7BrFNO
